US08193199B2
A mixture of 2,5-dichloroquinoline-3-carbaldehyde (1.0000 g, 4.424 mmol), 3-fluorophenylboronic acid (0.6808 g, 4.866 mmol), tetrakis(triphenylphosphine)-palladium (0.2556 g, 0.2212 mmol), and sodium carbonate anhydrous (2.344 g, 22.12 mmol) in acetonitrile-water (3:1) (0.04000 mL) was stirred at 100° C. After 3 h, the mixture was cooled to room temperature and partitioned between EtOAc (100 mL) and water (100 mL). The organic layer was washed with brine (50 mL×2), dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography on a 80 g of Redi-Sep™ column using 0 to 50% gradient of EtOAc in hexane over 25 min and then 50% isocratic of EtOAc for 10 min as eluent to give 5-chloro-2-(3-fluorophenyl)-quinoline-3-carbaldehyde as a yellow solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 10.14 (1H, s), 9.06 (1H, d, J=0.8 Hz), 8.13-8.18 (1H, m), 7.92-8.00 (2H, m), 7.59-7.67 (2H, m), 7.53-7.58 (1H, m), 7.39-7.47 (1H, m); LC-MS (ESI) m/z 286.0 [M+H]+.

reactant | 2,5-dichloroquinoline-3-carbaldehyde | 4.424 mmol, 1.0000 g | ClC1=NC2=CC=CC(=C2C=C1C=O)Cl | C10H5Cl2NO
reactant | 3-fluorophenylboronic acid | 4.866 mmol, 0.6808 g | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | sodium carbonate anhydrous | 22.12 mmol, 2.344 g | C(=O)(O)O | CH2O3
solvent | acetonitrile water | 0.04000 mL | C(C)#N.O
catalyst | tetrakis(triphenylphosphine)-palladium | 0.2212 mmol, 0.2556 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 5-chloro-2-(3-fluorophenyl)-quinoline-3-carbaldehyde | ClC1=C2C=C(C(=NC2=CC=C1)C1=CC(=CC=C1)F)C=O | C16H9ClFNO
